US08084448B2
C. 5-{4-[(E)-2-(1-Benzenesulfonylpyrrolidin-2-yl)-vinyl]-2-benzyloxyphenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one
To a solution of 5-{4-[(E)-2-(1-benzenesulfonylpyrrolidin-2-yl)-vinyl]-2-benzyloxyphenyl}-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (53 mg) in THF (2 mL) is added 0.2 mL of a 1M solution of TBAF in THF. The mixture is stirred at 60° C. for 2 h then is allowed to cool to RT. The mixture is poured into 1N HCl (20 mL) and extracted with EtOAc. The organic phase is washed with 1N HCl and brine and is dried over magnesium sulfate. The solvent is removed under reduced pressure and the residue is purified by reverse phase Biotage using a gradient of 0-100% EtOH/water as eluent to furnish the title compound as a blue oil: (M−1)−=548.

reactant | 5-{4-[(E)-2-(1-benzenesulfonylpyrrolidin-2-yl)-vinyl]-2-benzyloxyphenyl}-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 53 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(CCC1)/C=C/C1=CC(=C(C=C1)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O)OCC1=CC=CC=C1 | C32H39N3O6S2Si
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | HCl | 1N, 20 mL | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 5-{4-[(E)-2-(1-Benzenesulfonylpyrrolidin-2-yl)-vinyl]-2-benzyloxyphenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C1(=CC=CC=C1)S(=O)(=O)N1C(CCC1)/C=C/C1=CC(=C(C=C1)N1CC(NS1(=O)=O)=O)OCC1=CC=CC=C1 | C27H27N3O6S2
